US09403798B2
[2-(Trifluoromethyl)-2,3-dihydrobenzofuran-5-yl]methanol
To an ethanol solution (1.0 mL) of [2-(trifluoromethyl)benzofuran-5-yl]methanol (30.0 mg, 0.139 mmol) synthesized in Reference Synthesis Example 96, palladium-activated carbon (15.0 mg) was added and the resultant solution was stirred under hydrogen atmosphere at room temperature for 30 hours. After completion of the reaction, the reaction solution was filtered with Celite and the filtrate was concentrated under reduced pressure to obtain a crude product of the title compound (15.9 mg).

reactant | [2-(trifluoromethyl)benzofuran-5-yl]methanol | 0.139 mmol, 30.0 mg | FC(C=1OC2=C(C1)C=C(C=C2)CO)(F)F | C10H7F3O2
catalyst | palladium-activated carbon | 15.0 mg | [Pd] | Pd
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | [2-(Trifluoromethyl)-2,3-dihydrobenzofuran-5-yl]methanol | 15.9 mg | FC(C1OC2=C(C1)C=C(C=C2)CO)(F)F | C10H9F3O2
